US06846819B1
Preparation of 3-(methylaminomethyl)benzo[b]thiophene
To a stirred solution of 2 M methylamine in methanol (75 mmole, 150 mmole) was added benzo[b]thiophen-3-carboxaldehyde (5.3 g, 33 mmole) and HOAc (4.3 mL, 75 mmole). The reaction was stirred at RT for 1 h, then NaBH3CN (2.1 g, 33 mmole) was added portionwise over 5 minutes. The reaction was stirred for an additional 16 h then was concentrated under vacuum. The residue was taken up in Et2O (300 mL) and washed with 1.0 N NaOH (300 mL) then with brine, dried (Na2SO4), and concentrated. Purification by flash chromatography on silica gel (5% (5% NH4OH/MeOH)/CHCl3) gave the title compound (2.81 g, 48%) as a brownish oil: 1H NMR (400 MHz, CDCl3) 6-7.87 (2d, 2H), 7.40 (m, 2H), 7.32 (s,1H), 4.02 (s, 2H), 2.56 (s, 3H), 1.5 (br s,1H).

reactant | methylamine | 2 M | CN | CH5N
reactant | methanol | 75 mmole | CO | CH4O
reactant | benzo[b]thiophen-3-carboxaldehyde | 33 mmole, 5.3 g | S1C2=C(C(=C1)C=O)C=CC=C2 | C9H6OS
reactant | HOAc | 75 mmole, 4.3 mL | CC(=O)O | C2H4O2
reactant | NaBH3CN | 33 mmole, 2.1 g | [BH3-]C#N.[Na+]
product | 3-(methylaminomethyl)benzo[b]thiophene | 2.81 g, 48% | CNCC=1C2=C(SC1)C=CC=C2 | C10H11NS
